US07205292B2
Step E. tert-Butyl 6-bromo-4-(cyclopropylmethyl)-5-oxo-2-phenyl-1,4-diazepane-1-carboxylate
Lithium diisopropylamide (1M in THF; 2.13 mL, 2.13 mmol) was added to tert-butyl 4-(cyclopropylmethyl)-5-oxo-2-phenyl-1,4-diazepane-1-carboxylate (0.489 g, 1.42 mmol) in tetrahydrofuran (5 mL) at −78° C. After 30 min, the enolate solution was transferred dropwise via cannula to a solution of bromine (0.36 mL, 7.10 mmol) in tetrahydrofuran (3 mL) at −78° C. over a period of 5 min. After 15 min, the mixture was quenched with aqueous saturated sodium sulfite and allowed to warm to ambient temperature. The mixture was extracted with ethyl acetate, washed with saturated aqueous sodium bicarbonate and saturated brine, dried over magnesium sulfate, filtered, and concentrated. MS 423 (M+1).

reactant | Lithium diisopropylamide | 2.13 mmol, 1M, 2.13 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | tert-butyl 4-(cyclopropylmethyl)-5-oxo-2-phenyl-1,4-diazepane-1-carboxylate | 1.42 mmol, 0.489 g | C1(CC1)CN1CC(N(CCC1=O)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C20H28N2O3
reactant | bromine | 7.10 mmol, 0.36 mL | BrBr | Br2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | tert-Butyl 6-bromo-4-(cyclopropylmethyl)-5-oxo-2-phenyl-1,4-diazepane-1-carboxylate | BrC1C(N(CC(N(C1)C(=O)OC(C)(C)C)C1=CC=CC=C1)CC1CC1)=O | C20H27BrN2O3
